US06087380
2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(hydroxycarbonylmethyl)-amide-dihydrochloride
Prepared analogously to Example 10 from 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide-dihydrochloride and sodium hydroxide solution. Yield: 90% of theory, C23H20N6O3S (460.52) Rf value: ##EQU1##

reactant | 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(ethoxycarbonylmethyl)-amide-dihydrochloride | Cl.Cl.N1=C(C=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C(N)=N)C1)CC(=O)OCC
reactant | sodium hydroxide | [OH-].[Na+]
product | 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(hydroxycarbonylmethyl)-amide-dihydrochloride | Yield: 90% | Cl.Cl.N1=C(C=CC=C1)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C(N)=N)C1)CC(=O)O | InChI=1S/C23H20N6O3S.2ClH/c24-22(25)14-4-7-16(8-5-14)27-12-20-28-17-11-15(6-9-18(17)33-20)23(32)29(13-21(30)31)19-3-1-2-10-26-19;;/h1-11,27H,12-13H2,(H3,24,25)(H,30,31);2*1H
